US08138197B2
Production of 1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)spiro[chroman-2,4′-piperidin]-4-one
Et3N (58 μL), HOBT (32 mg) and WSC hydrochloride (40 mg) were added to a DMF (4 mL) solution of 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid (50 mg) and 6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (70 mg), and stirred overnight at room temperature. Water was added to the reaction liquid, the formed solid was taken out through filtration, and the solid was fully washed with water and ether. The solid was dried under reduced pressure to obtain the title compound. 1H-NMR (400 MHz, DMSO-d6) δ: 12.96 (1H, s), 8.21 (1H, d, J=4.0 Hz), 8.06 (1H, s), 8.00 (1H, dd, J=8.0, 4.0 Hz), 7.92 (1H, s), 7.30 (1H, d, J=8.0 Hz), 6.68 (2H, s), 4.32-4.18 (1H, m), 4.08 (4H, q, J=8.0 Hz), 3.86 (3H, s), 3.64-3.20 (3H, m), 2.97 (2H, s), 2.10-1.75 (4H, m), 1.37 (6H, t, J=8.0 Hz). MS [M+H]+=574.

reactant | HOBT | 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 40 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid | 50 mg | C(C)OC=1C=C(C(=O)O)C=C(C1C=1C=NN(C1)C)OCC | C15H18N2O4
reactant | 6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 70 mg | Cl.O=C1NC(=NO1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
solvent | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 58 μL | CCN(CC)CC | C6H15N
product | 1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)spiro[chroman-2,4′-piperidin]-4-one | C(C)OC=1C=C(C=C(C1C=1C=NN(C1)C)OCC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=NOC(N2)=O | C30H31N5O7
